US06613942B1
2-[4-(2-Ethoxycarbonylvinyl)naphthyl]dioxolane:
Nitrogen was passed through a solution of 2-(4-trifluoromethylsulfonyloxynaphthyl) dioxolane (2.46 g, 7.06 mmol), ethyl acrylate (2.3 mL, 2.1 g, 21.2 mmol), triethylamine (4.3 g, 42.3 mmol) in DMF (6 mL) for 15 min, and bis(triphenylphosphine)palladium dichloride was added. The well stirred solution was heated at 90° C. for 8 hr, and concentrated. The residue was dissolved in ethyl acetate (50 mL), washed with brine (2×50 mL), dried (Na2SO4), and concentrated. Purification by flash chromatography using hexane/ethyl acetate 9:1 as eluent provided a yellow solid (1.13 g, 53%).

reactant | 2-(4-trifluoromethylsulfonyloxynaphthyl) dioxolane | 7.06 mmol, 2.46 g | FC(S(=O)(=O)OC1=CC=C(C2=CC=CC=C12)C1OCCO1)(F)F | C14H11F3O5S
reactant | ethyl acrylate | 21.2 mmol, 2.3 mL, 2.1 g | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 42.3 mmol, 4.3 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium dichloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-[4-(2-Ethoxycarbonylvinyl)naphthyl]dioxolane | 1.13 g, 53% | C(C)OC(=O)C=CC1=CC=C(C2=CC=CC=C12)C1OCCO1 | C18H18O4
